US07589220B2
To a magnetically stirred solution of 132 mg (0.43 mmol) of arachidonyl azide in 3 mL of Et2O, 4 mL of a 1.0 M LAH solution in THF (4.0 mmol) was added dropwise at room temperature. The reaction mixture was refluxed for 3 h and then it was cooled to ambient temperature. 210 mg (5 mmol) of NaF was added and the reaction was quenched with wet Et2O. The white mixture was filtered and the solvent was evaporated to dryness. Silica gel chromatography (eluents: CH2Cl2/MeOP-up to 50% MeOH), evaporation of solvent, followed by Millipore filtration of a CH2Cl2 solution of the product then gave 78.9 mg (0.28 mmol, 64% yield) of arachidonyl-amine as a colorless oil. TLC (EtOAc/CH2Cl2 (20:80)) Rf 0.33; 1H NMR (200 MHz, CDCl3) δ 5.38 (m, 8 H), 2.82 (m, 6 H), 2.70 (t, 2 H, J=6.6 Hz), 2.08 (m, 4 H), 1.40 (m, 4 H), 1.26 (m, 6 H), 0.89 (t, 3 H, J=6.4 Hz).

reactant | arachidonyl azide | 0.43 mmol, 132 mg | C(CCC\C=C/C\C=C/C\C=C/C\C=C/CCCCC)N=[N+]=[N-] | C20H33N3
reactant | LAH | 1.0 M | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | THF | 4.0 mmol | C1CCOC1 | C4H8O
reactant | NaF | 5 mmol, 210 mg | [F-].[Na+]
solvent | Et2O | 3 mL | CCOCC | C4H10O
product | arachidonyl-amine | 0.28 mmol, 78.9 mg, 64% yield | C(CCC\C=C/C\C=C/C\C=C/C\C=C/CCCCC)N | C20H35N
